US08912186B2
The solution of commercial 4,5-dichloro-1,2-phenylenediamine (0.36 g) and triethyl amine (0.32 ml) in 1,4-dioxane (1.5 ml) was added to a solution of 3-(4-chlorophenyl)glutaric anhydride (0.45 g) in 1,4-dioxane (1 ml) with ice cooling. The resulting mixture was stirred at rt for 0.5 h and at 40° C. for 0.5 h. Again under ice cooling 1M HCl (3 ml) was added dropwise. A gummy precipitate is formed. After 0.5 h of cooling the aqueous layer is removed by decantation and the residue is dissolved in methanol. The dark solution is decolorized with activated carbon, filtered, and the filtrate concentrated in vacuo. The amorphous solid is redissolved in ethanol (6 ml) and conc. HCl (2 ml) and stirred at reflux for 16 h. After cooling to rt the pH is adjusted to 8 by addition of first NaOH solution, then sat. sodium bicarbonate solution. The aqueous layer is extracted with dichloromethane (40 ml) and the organic layer is washed with sat. sodium chloride solution and dried (sodium sulfate). After concentration the crude (0.46 g) is purified by flash chromatography ((dichloromethane/2% methanol/1% triethyl amine) on silica gel to afford ethyl 4-(5,6-dichloro-2-benzimidazolyl)-3-(4-chlorophenyl)butanoate (0.33 g) as yellowish, amorphous solid.

reactant | 4,5-dichloro-1,2-phenylenediamine | 0.36 g | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | triethyl amine | 0.32 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(4-chlorophenyl)glutaric anhydride | 0.45 g | ClC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9ClO3
solvent | 1,4-dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | ethyl 4-(5,6-dichloro-2-benzimidazolyl)-3-(4-chlorophenyl)butanoate | 0.33 g | ClC1=CC2=C(N=C(N2)CC(CC(=O)OCC)C2=CC=C(C=C2)Cl)C=C1Cl | C19H17Cl3N2O2
